US07396958B2
2-{[4-chloro-2-(2,6-difluorobenzyl)phenyl][(3,4-dimethoxy phenyl)sulfonyl]amino}-2-ethoxyacetamide
To 0.34 g of 5-chloro-3-(2,6-difluorophenyl)-1-[(3,4-dimethoxyphenyl)sulfonyl]indoline-2-carboxylic acid in 10 ml of tetrahydrofuran are successively added, at 0° C., 90 μl of N-ethylmorpholine and 68 μl of ethyl chloroformate, the mixture is left at this temperature for 30 minutes, and 0.5 ml of 6M aqueous ammonia solution is introduced. The reaction medium is concentrated and the residue is taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with a dichloromethane/methanol mixture (100% dichloromethane to 98% dichloromethane/2% methanol) to give 0.256 g of product (99.6% HPLC purity).

reactant | 5-chloro-3-(2,6-difluorophenyl)-1-[(3,4-dimethoxyphenyl)sulfonyl]indoline-2-carboxylic acid | 0.34 g | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=CC(=C(C=C1)OC)OC)C(=O)O)C1=C(C=CC=C1F)F | C23H18ClF2NO6S
reactant | N-ethylmorpholine | 90 μl | C(C)N1CCOCC1 | C6H13NO
reactant | ethyl chloroformate | 68 μl | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 6M, 0.5 ml | N | H3N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-{[4-chloro-2-(2,6-difluorobenzyl)phenyl][(3,4-dimethoxy phenyl)sulfonyl]amino}-2-ethoxyacetamide | 0.256 g, 99.6% | ClC1=CC(=C(C=C1)N(C(C(=O)N)OCC)S(=O)(=O)C1=CC(=C(C=C1)OC)OC)CC1=C(C=CC=C1F)F | C25H25ClF2N2O6S
